US07625914B2
20.8 g (95 mmol) of di-tert-butyl dicarbonate are added portionwise to a solution of 19.7 g (95 mmol) of (4-bromothiophen-2-ylmethyl)methylamine and 11.9 ml (85 mmol) of triethylamine in 200 ml of dichloromethane. After stirring at room temperature for 16 hours, the reaction medium is washed with water and the dichloromethane phase is extracted. The organic phase is dried over magnesium sulfate, filtered and evaporated. 19 g (44%) of tert-butyl (4-bromothiophen-2-ylmethyl)methylcarbamate are obtained.

reactant | di-tert-butyl dicarbonate | 95 mmol, 20.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (4-bromothiophen-2-ylmethyl)methylamine | 95 mmol, 19.7 g | BrC=1C=C(SC1)CNC | C6H8BrNS
reactant | triethylamine | 85 mmol, 11.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-butyl (4-bromothiophen-2-ylmethyl)methylcarbamate | 19 g, 44% | BrC=1C=C(SC1)CN(C(OC(C)(C)C)=O)C | C11H16BrNO2S
